US09102692B2
A mixture of [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (194.9 mg, 0.306 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium (II)/dichloromethane adduct (14.4 mg, 0.015 mmol) bis(pinacol)diborane (100.9 mg, 0.397 mmol), potassium acetate (132.3 mg, 1.35 mmol), and anhydrous dimethylsulfoxide (DMSO) (1.5 ml) was deaerated. Then, the air was replaced three times with argon, and was heated and stirred at 110° C. for six hours. Then, the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, the residue obtained by concentration under reduced pressure was subjected to silica gel column chromatography (dichloromethane/methanol=15/1). The resulting crude product was mixed with 4-bromo-pyridazine (78.0 mg, 0.491 mol), dichlorobis(triphenylphosphine)palladium (II) (17.2 mg, 0.025 mmol), an aqueous solution of 2 M sodium bicarbonate (0.325 mmol), and dioxane (0.4 ml). After deaeration, the air was replaced three times with argon, and this was microwaved at 150° C. for five minutes. Then, the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, the residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (dichloromethane/methanol=1% to 12%). Thus, [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-pyridazin-4-yl-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone was obtained as a pale yellow amorphous material (20.0 mg, yield of 11%).

reactant | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 0.306 mmol, 194.9 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)I)S(=O)(=O)C1=CC=C(C=C1)C | C27H21IN6O3S
reactant | potassium acetate | 1.35 mmol, 132.3 mg | C(C)(=O)[O-].[K+]
reactant | 4-bromo-pyridazine | 0.491 mol, 78.0 mg | BrC1=CN=NC=C1 | C4H3BrN2
reactant | sodium bicarbonate | 0.325 mmol, 2 M | C([O-])(O)=O.[Na+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium (II) dichloromethane | 0.015 mmol, 14.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
catalyst | dichlorobis(triphenylphosphine)palladium | 0.025 mmol, 17.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 0.4 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane methanol | ClCCl.CO
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-pyridazin-4-yl-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)C1=CN=NC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C31H24N8O3S
